US07582673B2
N,N′-(4-methoxy-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) (472 mg) was prepared as in Example 31 using 4-methoxybenzene-1,2-diamine and benzothiophene-2-sulfonyl chloride as requisite starting materials.

reactant | 4-methoxybenzene-1,2-diamine | COC=1C=C(C(=CC1)N)N | C7H10N2O
reactant | benzothiophene-2-sulfonyl chloride | S1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO2S2
product | N,N′-(4-methoxy-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) | 472 mg | COC1=CC(=C(C=C1)NS(=O)(=O)C=1SC2=C(C1)C=CC=C2)NS(=O)(=O)C=2SC1=C(C2)C=CC=C1 | C23H18N2O5S4
